US06034150
Synthesis of Isophorone bisurethane bisethylmaleimide (IPBUBEMI)
Hydroxy ethylmaleimide (10 g, 0.141 mol) was dissolved in acetone and purged with nitrogen while stirring in an ice bath. One drop of dibutyl tin dilaurate was added to the solution. The isophorone diisocyanate (30.5 g, 0.141 mol) was added dropwise over 2-3 hours. The solution was allowed to stir overnight and a white precipitate was obtained after solvent removal m.p. 105-112° C. (40.5 g, 100%). 1H-NMR (D6 -DMSO, δ, ppm): 3.63-3.58 (2H, --NCH2 --), 4.08-4.03 (2H, --CH2O--, t), 7.03 (2H, --CH=CH--, s). 13C-NMR (D6 -DMSO, δ, ppm): 134.5 (2C, --CH=CH--), 154.9 (2C, NHC=O), (170.7 (2C, --NC=O).

reactant | Hydroxy ethylmaleimide | 0.141 mol, 10 g | OCCC=1C(=O)NC(C1)=O | C6H7NO3
reactant | isophorone diisocyanate | 0.141 mol, 30.5 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
solvent | acetone | CC(=O)C | C3H6O
product | Isophorone bisurethane bisethylmaleimide | C(C)C1=C(C(=O)NC1=O)CC.NC(=O)OCC.NC(=O)OCC.O=C1C=C(CC(C)(C)C1)C | InChI=1S/C9H14O.C8H11NO2.2C3H7NO2/c1-7-4-8(10)6-9(2,3)5-7;1-3-5-6(4-2)8(11)9-7(5)10;2*1-2-6-3(4)5/h4H,5-6H2,1-3H3;3-4H2,1-2H3,(H,9,10,11);2*2H2,1H3,(H2,4,5)
